US05840732
i) Synthesis of 5-(dimethylamino)methylene-3-[4-(imidazo-[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione
To a solution of 241 mg (1.0 mmol) of 5-(4-chlorobutylthio)imidazo[1,2-a]pyridine and 173 mg (1.0 mmol) of 5-(dimethylamino)methylene-thiazolidine-2,4-dione in 10 ml of N,N-dimethylformamide, 0.15 ml (1.0 mmol) of 1,8-diazabicyclo[5.4.0]-7-undecene was added, followed by stirring at 80°C. for 3 hours. After the reaction mixture was cooled, water was added; the mixture was extracted with ethyl acetate and dried, after which the solvent was distilled off. The residue was purified by column chromatography (eluent, n-hexane/ethyl acetate=1/4→ethyl acetate→chloroform/ethanol=10/1) to yield 310 mg (82.3%, yellow oily substance) of the desired product.

reactant | 5-(4-chlorobutylthio)imidazo[1,2-a]pyridine | 1.0 mmol, 241 mg | ClCCCCSC1=CC=CC=2N1C=CN2 | C11H13ClN2S
reactant | 5-(dimethylamino)methylene-thiazolidine-2,4-dione | 1.0 mmol, 173 mg | CN(C)C=C1C(NC(S1)=O)=O | C6H8N2O2S
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 1.0 mmol, 0.15 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 5-(dimethylamino)methylene-3-[4-(imidazo-[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione | CN(C)C=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | C17H20N4O2S2
